US09216943B2
Preparation of 2-amino-2-(4-octylphenethyl)propane-1,3-diol
2-Nitro-2-(4-octylphenethyl)propane-1,3-diol (25 g), absolute ethanol (250 mL) and 10% Pd on carbon (5 g, 50% wet) are charged into a 500 mL steel hydrogenation flask under a N2 atmosphere and the flask is equipped with a para shaker hydrogen operator. The mixture is hydrogenated with a H2 pressure of 60 psi (415 kPa) at room temperature for 2 hours and filtered through a Celite bed and washed with ethylacetate (200 mL). The filtrate is concentrated under reduced pressure at 50° C. to give the title compound as a white solid. Yield: 16 g.

reactant | 2-Nitro-2-(4-octylphenethyl)propane-1,3-diol | 25 g | [N+](=O)([O-])C(CO)(CO)CCC1=CC=C(C=C1)CCCCCCCC | C19H31NO4
reactant | hydrogen | [H][H] | H2
catalyst | Pd on carbon | 5 g | [Pd] | Pd
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2-amino-2-(4-octylphenethyl)propane-1,3-diol | NC(CO)(CO)CCC1=CC=C(C=C1)CCCCCCCC | C19H33NO2
